US05283165
Synthesis of 3-Cyano-4-phenyl-1-(4-sulfophenyl)-3-pyrrolin-2-one, ammonium salt
A mixture of 14.5 grams (50 mmol) of 2-(4-sulfoanilino)acetophenone, 45.2 grams (0.4 mol) of ethyl cyanoacetate and 12.2 grams (0.2 mol) of ammonium acetate in a reaction flask fitted with distillation head was stirred and placed in an oil bath pre-heated to 130° C. At an internal temperature of 60° C. the reaction mixture became easily stirrable. Distillate began to collect at 95° C. and the reaction was brought to an internal temperature of 115° C. After 25 minutes the product mixture had become a thick slurry. The product mixture was then cooled, diluted with 100 mL of ethanol and stirred. The tan-yellow product was collected by filtration and washed with ethanol, acetone and ligroin to give a crude weight of product of 10.1 grams. The product was recrystallized from glacial acetic acid to give 9.35 grams (26 mmol, 52% yield) of product as a yellow powder, m. p.=275°-300° C. (decomposes). Elemental Analysis: Calculated: C=57.13, H=4.23, N =11.76, S=8.97; Found: C=57.07, H=4.31, N=11.66, S=8.40.

reactant | 2-(4-sulfoanilino)acetophenone | 50 mmol, 14.5 grams | S(=O)(=O)(O)C1=CC=C(NCC(=O)C2=CC=CC=C2)C=C1 | C14H13NO4S
reactant | ethyl cyanoacetate | 0.4 mol, 45.2 grams | C(#N)CC(=O)OCC | C5H7NO2
reactant | ammonium acetate | 0.2 mol, 12.2 grams | C(C)(=O)[O-].[NH4+]
product | 3-Cyano-4-phenyl-1-(4-sulfophenyl)-3-pyrrolin-2-one, ammonium salt | 26 mmol, 9.35 grams, 52% yield | [NH4+].C(#N)C=1C(N(CC1C1=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)O)=O | InChI=1S/C17H12N2O4S.H3N/c18-10-15-16(12-4-2-1-3-5-12)11-19(17(15)20)13-6-8-14(9-7-13)24(21,22)23;/h1-9H,11H2,(H,21,22,23);1H3/p+1
